US05962002
3,3-dimethyl butan-1-ol (1.3 g) was stirred for 2 hours in dichloromethane (30 ml) with pyridinium chlorochromate (5.5 g) at room temperature, diluted with ether and filtered. Wittig reagent Ph3P=CH--CO2C2H5 (carbethoxymethylenetriphenylphosphorane)(3.6 g) was added to the filtrate and stirred overnight. The mixture was evaporated under vacuum and the residue purified by silica gel chromatography to yield 1.25 g of ethyl 5,5-dimethylhex-2-enoate.

reactant | 3,3-dimethyl butan-1-ol | 1.3 g | CC(CCO)(C)C | C6H14O
reactant | pyridinium chlorochromate | 5.5 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | ether | CCOCC | C4H10O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | ethyl 5,5-dimethylhex-2-enoate | 1.25 g | CC(CC=CC(=O)OCC)(C)C | C10H18O2
